Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Penicillins / Shellfish Derived / Iodine-Iodine 
Containing / tropicamide / verapamil / erythromycin base / 
flecainide
 
Attending: ___.
 
Chief Complaint:
Chest pain, Possible pacemaker atrial lead misplacement  
 
Major Surgical or Invasive Procedure:
Pacemaker atrial lead revision ___ 
 
History of Present Illness:
Ms. ___ is a ___ woman with history of HTN, hypothyroidism,
mild MR, and afib and tachy-brady syndrome s/p recent pacemaker
implant at ___ (___) who was transferred from ___
after presenting on ___ with severe pleuritic chest pain
radiating to the right side, as well as shortness of breath and
nausea. By report, she had a CXR which was negative for any 
acute
processes and moderate bruising around her implant site. She had
SL nitro x 2 during an episode of this pain during which she was
short of breath and anxious, and this alleviated the chest pain.
Per OSH interrogation there was question of atrial lead
misplacement, and thus the patient was transferred to ___ for
further management.  

Ms. ___ was transferred to the Cardiology floor on ___, 
and
she was taken to the EP lab for an atrial lead revision today.
Per EP, they believe the patient was having pericardial
inflammation from atrial lead given that the OSH TTE showed
trivial effusion. Additionally on their studies, the atrial lead
was not capturing so they believe it had dislodged. As such, she
was taken to the EP lab on ___ for atrial lead revision. Per
report, during her procedure the needed to deploy the lead ~10x.
Her intraoperative ECGs demonstrated diffuse STEs c/w
pericarditis, with her chest pain worse with inspiration and
laying down. Had multiple intraoperative TTEs that demonstrated
normal wall motion, however with a small circumferential
pericardial effusion that did not change over 30 minutes with
repeat TTEs x3. Per EP, admitted to the CCU for pericardial
effusion monitoring - requesting that we do V-scan tonight as
well as obtain a formal TTE in AM. She was started on Vancomycin
intraoperatively. She is to be started on Colchicine 0.6mg BID,
and her home Eliquis is to be held for the time being. 

Of note, was briefly hypotensive intraoperatively - however felt
to be a vagal reaction to pain. It self-resolved after ~2 
minutes
per report.

On arrival to the CCU, patient states that she is still having
pleuritic chest pain however is stable overall. Notes that she
intermittently feels short of breath. No new problems otherwise. 

 
Past Medical History:
AF
s/p PPM ___
asthma
dyslipidemia
HTN
hypothyroidism
migraines
 
Social History:
___
Family History:
There is no family history of arrhythmia, cardiomyopathy, or
sudden cardiac death. Her father died at age ___ following
myocardial infarction. Her mother had a myocardial infarction in
her ___.  

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
======================
VS: Reviewed in Metavision 
GENERAL: Well developed, well nourished woman in NAD. Oriented
x3. Mood, affect appropriate.  
HEENT: Normocephalic, atraumatic. Sclera anicteric. PERRL. EOMI. 

NECK: Supple. JVP low-neck at 90 degrees.  
CARDIAC: Normal rate, regular rhythm. No murmurs, rubs, or
gallops.  
LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. No adventitious breath
sounds.  
ABDOMEN: Soft, non-tender, non-distended. No palpable
hepatomegaly or splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.  
SKIN: No significant lesions or rashes. +Trace BLE edema.  
PULSES: Distal pulses palpable and symmetric.  
NEURO: Alert, oriented, no facial asymmetry. Moving all
extremities equally. 

DISCHARGE PHYSICAL EXAM:
======================
 Physical Exam: 
Temp: 98.5 BP: 112/70 HR: 115 RR: 20 O2 sat: 99% RA  
General: Alert, no acute distress 
Cardiovascular: Normal rate, irregular rhythm  
Respiratory: Lungs clear bilaterally, breathing non-labored
Skin: Warm, dry and intact 
Neuro: Alert, oriented x 3, appropriate 
Access site: Left chest dressing intact without evidence of
bleeding or hematoma.

 
Pertinent Results:
ADMISSION LABS:
=============
___ 07:38AM BLOOD WBC-4.6 RBC-3.66* Hgb-12.0 Hct-36.2 
MCV-99* MCH-32.8* MCHC-33.1 RDW-12.9 RDWSD-47.0* Plt ___
___ 07:38AM BLOOD Glucose-96 UreaN-13 Creat-0.6 Na-142 
K-4.2 Cl-108 HCO3-24 AnGap-10
___ 06:10PM BLOOD ALT-9 AST-16 LD(LDH)-205 AlkPhos-41 
TotBili-0.5
___ 06:10PM BLOOD CK-MB-1 cTropnT-<0.01
___ 06:10PM BLOOD Albumin-3.7 Calcium-8.7 Phos-3.0 Mg-2.0

DISCHARGE LABS:
=============
___ 07:25AM BLOOD WBC-3.5* RBC-4.14 Hgb-13.7 Hct-40.1 
MCV-97 MCH-33.1* MCHC-34.2 RDW-12.6 RDWSD-44.9 Plt ___
___ 07:25AM BLOOD Plt ___
___ 07:25AM BLOOD UreaN-12 Creat-0.7 Na-147 K-4.1 Cl-107 
HCO3-27 AnGap-13
___ 07:25AM BLOOD Mg-2.1

IMAGING:
=======
TTE ___
The left atrium is elongated. The estimated right atrial 
pressure is >15mmHg. There is suboptimal image quality to assess 
regional left ventricular function. Overall left ventricular 
systolic function is normal. The visually estimated left 
ventricular ejection fraction is >=65%. Normal right ventricular 
cavity size with normal free wall motion. The aortic valve 
leaflets (?#) are mildly thickened. The mitral valve leaflets 
are mildly thickened. The tricuspid valve leaflets appear 
structurally normal. There is a central jet of mild [1+] 
tricuspid regurgitation. Due to acoustic shadowing, the severity 
of tricuspid regurgitation may be UNDERestimated. The estimated 
pulmonary artery systolic pressure is normal. There is a small 
circumferential pericardial effusion. There are no 2D or Doppler 
echocardiographic evidence of tamponade. 

IMPRESSION: Small circumferential pericardial effusion without 
echocardiographic evidence of tamponade. Grossly normal 
biventricualr systolic function. Mild tricuspid regurgitation.
TTE ___
The left atrial volume index is moderately increased. The right 
atrium is mildly enlarged. There is a secundum atrial septal 
defect. The estimated right atrial pressure is ___ mmHg. There 
is normal left ventricular wall thickness with a normal cavity 
size. There is normal regional and global left ventricular 
systolic function. There is beat-to-beat variability in the left 
ventricular contractility due to the irregular rhythm. 
Quantitative 3D volumetric left ventricular ejection fraction is 
58 %. There is no resting left ventricular outflow tract 
gradient. Normal right ventricular cavity size with normal free 
wall motion. The aortic sinus diameter is normal for gender with 
mildly dilated ascending aorta. The aortic arch diameter is 
normal with a normal descending aorta diameter. There is no 
evidence for an aortic arch coarctation. The aortic valve 
leaflets (3) are mildly thickened. There is no aortic valve 
stenosis. There is trace aortic regurgitation. The mitral valve 
leaflets are mildly thickened with no mitral valve prolapse. 
There is mild [1+] mitral regurgitation. The tricuspid valve 
leaflets appear structurally normal. There is mild [1+] 
tricuspid regurgitation. Due to acoustic shadowing, the severity 
of tricuspid regurgitation may be UNDERestimated. The estimated 
pulmonary artery systolic pressure is normal. There is a very 
small circumferential pericardial effusion. 

IMPRESSION: Very small circumferential pericardial effusion 
without echocardiographic evidence of pericardial tamponade. 
Mild symmetric left ventricular hypertrophy with normal cavity 
size and systolic function. Mild mitral regurgitation. Mild 
tricuspid regurgitation.
CHEST (PA & LAT)Study Date of ___ 3:15 ___
The cardiomediastinal silhouette is unchanged.  A left chest 
AICD is in place with leads extending to the area projecting 
over the right atrium and right ventricle.  No pneumothorax.  No 
focal consolidation.  Stable small bilateral pleural effusions 
are seen.
 
IMPRESSION: 
Appropriate AICD lead placement.  No pneumothorax.

 
Brief Hospital Course:
 ___ with history of SSS/AFIB s/p recent pacemaker implant 
(___) who was transferred from ___ after presenting 
on ___ with severe pleuritic chest pain and concern for 
atrial lead misplacement, s/p lead revision ___
with new findings of pericarditis and pericardial effusion. 

  # Pericarditis c/b pericardial effusion: small 
- gone by ___ 
- Continue Colchicine 0.6mg BID
- Held Eliquis, resumed on ___ . 
   
  # Atrial Fibrillation w/ RVR: diltiazem inc to 120 mg BID with 
good rate control.  

  # Concern for Atrial Lead Displacement s/p Revision ___: 2 
more days of antibiotics after discharge. Activity restrictions 
reviewed with pt. F/U in device clinic in 1 week. 

CHRONIC ISSUES:  
===============
# Dyslipidemia
- Continue home Atorvastatin 20mg 3x/week (___)

# HTN
- Continue home Diltiazem as above

# Asthma
- Continue home Albuterol q4 PRN
- Continue home Fluticasone IH BID PRN

# Hypothyroidism
- Continue home Levothyroxine

# Migraines
- Continue home Magnesium Oxide 500mg PRN migraine
- Continue home Prochlorperazine q12 hrs PRN  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 20 mg PO 3X/WEEK (___) 
2. Diltiazem Extended-Release 120 mg PO DAILY 
3. Apixaban 5 mg PO BID 
4. Albuterol Inhaler 4 PUFF IH Q4H:PRN sob 
5. Prochlorperazine 25 mg PR Q12H migraine 
6. Clindamycin 300 mg PO TID abx post PPM; course completed AM 
of ___. Levothyroxine Sodium 75 mcg PO DAILY 
8. Fluticasone Propionate 110mcg 1 PUFF IH BID: PRN sob/wheeze 
9. Magnesium Oxide 500 mg PO PRN migraine 

 
Discharge Medications:
1.  Colchicine 0.6 mg PO BID  
2.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate  
3.  Diltiazem Extended-Release 120 mg PO BID  
4.  Albuterol Inhaler 4 PUFF IH Q4H:PRN sob  
5.  Atorvastatin 20 mg PO 3X/WEEK (___)  
6.  Fluticasone Propionate 110mcg 1 PUFF IH BID: PRN sob/wheeze  

7.  Levothyroxine Sodium 75 mcg PO DAILY  
8.  Magnesium Oxide 500 mg PO PRN migraine  
9.  Prochlorperazine 25 mg PR Q12H migraine  
10. HELD- Apixaban 5 mg PO BID  This medication was held. Do not 
restart Apixaban until ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Sick sinus syndrome 
Atrial Fibrillation/RVR 
Pericarditis 
Pericardial Effusion 

 
Discharge Condition:
___ s/p PPM atrial lead revision ___. 

Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
 You were transferred to ___ for evaluation of your pacemaker 
and underwent a procedure to adjust the lead placement. You 
developed inflammation and a small amount of fluid around your 
heart and you were started on a new medication to help decrease 
the inflammation, Colchicine.  An echocardiogram today showed 
that the effusion is now gone.  Your pain should slowly improve 
with the addition of colchicine.  You can also take 
acetaminophen or oxycodone in addition to the colchicine for the 
pain.

 Your Eliquis was initially held, please resume on ___.  

 Please continue your current home medications with the addition 
of: 
1. Colchicine 0.6mg twice daily 
2. Cliindamycin antibiotic for 2 days to prevent an infection at 
the pacer site
3.  Increase diltiazem  to 120 mg twice a day.

 For urgent questions or concerns please call the ___ Heart 
Line at ___.  
 
 
 
Followup Instructions:
___